US04963563
1,2,3,4,-Tetrahydro-6-hydroxy-N-3-(2-thienyl)propionylisoquinoline
A suspension of 1,2,3,4-tetrahydro-6-hydroxyisoquinoline hydrobromide (5.8g) in methylene chloride (100 mL) at 0° C. was treated with chlorotrimethylsilane (7.4 mL). After 4 hours, the reaction was filtered, washed with cold NaHCO3, brine, dried (MgSO4), filtered and evaporated to provide an oil. To a solution of the above oil in THF (100 mL), was added 3-(2-thienyl)propanoic acid (4.33 g) and 1-hydroxybenzotriazole (6.8 g) followed by the addition of dicyclohexylcarbodiimide (5.2 g). After 12 hours, the reaction was filtered and concentrated. The residue was taken up into EtOAc and refiltered. The organic solution was washed with 10% aq. NaHCO3, 1 N HCl, brine, dried (MgSO4), filtered and concentrated. Chromatography on silica gel (elution with 50% ethyl acetate/hexanes) provided 4.61 g of the desired product as a white solid.

reactant | 1,2,3,4-tetrahydro-6-hydroxyisoquinoline hydrobromide | 5.8g | Br.OC=1C=C2CCNCC2=CC1
reactant | chlorotrimethylsilane | 7.4 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3-(2-thienyl)propanoic acid | 4.33 g | S1C(=CC=C1)CCC(=O)O | C7H8O2S
reactant | 1-hydroxybenzotriazole | 6.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 5.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1,2,3,4,-Tetrahydro-6-hydroxy-N-3-(2-thienyl)propionylisoquinoline | 4.61 g | OC=1C=C2CCN(CC2=CC1)C(CCC=1SC=CC1)=O | C16H17NO2S
